US08809326B2
Synthesis of 6-amino-5-chloro isoquinolin-1-one
To a solution of 0.500 g (3.12 mmol) of 6-amino-2H-isoquinolin-1-one in DMF (30 mL) was added 0.45 g (3.4 mol) of N-chlorosuccinimide. The mixture was stirred at room temperature for 15 h then poured over ice and stirred until all the ice was melted during which time a solid precipitated from solution. The tan solid was collected by filtration, washed with water and dried on the filter pad to provide 0.50 g (82% yield) of the title compound. MS calc. for C9H8ClN2O [M+H]+: 195.63. Found: 195.23.

reactant | 6-amino-2H-isoquinolin-1-one | 3.12 mmol, 0.500 g | NC=1C=C2C=CNC(C2=CC1)=O | C9H8N2O
reactant | N-chlorosuccinimide | 3.4 mol, 0.45 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 6-amino-5-chloro isoquinolin-1-one | 0.50 g, 82% yield | NC=1C(=C2C=CNC(C2=CC1)=O)Cl | C9H7ClN2O
